Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.7941654932900002
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.89141230178
[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]#[C:5][H:6],4.1463449789599975
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],6.3866832569800005
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8]>>[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8].[O:1],7.775332340630001
[C:1][O:2][C:3]#[C:4][H:5].[C:6]=[O:7]>>[C:1][O:2][C:3][C:4]([H:5])=[C:6]=[O:7],-0.566576803922
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.1322842274400005
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[H:9],2.14090171445
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5],4.263589553380001
[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.85544815059
[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[H:7]>>[C:1].[C:2]([H:3])([H:4])[C:5](=[O:6])[H:7],3.5031596616000003
[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]#[C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],5.530872124939999
[C:1].[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-6.9172681301
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][H:9]>>[C:7]#[C:8][H:9].[O:1][O:2][C:3]([H:4])=[C:5][H:6],6.423606353080001
[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],1.38623885978
[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-3.61330665254
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.89051045169
[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1],4.211718557219998
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9][H:10],6.607286684299999
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:6][H:7],5.98408257477
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12],3.4438158707
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]=[O:3],0.7186542806899999
[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.689933349999
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],3.9975253766
[C:1].[C:2](\[O:3][H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]/[C:2]([O:3][H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-5.285497443040001
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14],4.80788253649
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3].[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],3.14039733771
[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],4.33132197038
[O:1]=[C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2].[O:3]=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-3.0288769275700003
